### PR TITLE
Add `IsCommutativeMonoid'` typeclass

### PR DESCRIPTION
**Pull request by WhatisRT**
# Description

This sits between `CommutativeMonoid` and `IsCommutativeMonoid`. It doesn't bundle the carrier but everything else. It is a lot better behaved as a typeclass than the other two, and enables a bunch of cleanup.

# Checklist

- [x] Commit sequence broadly makes sense and commits have useful messages
- [x] Code is formatted according to [CONTRIBUTING.md](https://github.com/input-output-hk/formal-ledger-specifications/blob/master/CONTRIBUTING.md)
- [x] Self-reviewed the diff

### CODE REVIEW

File: src/Ledger/Script.lagda [hunk 1]
```diff
@@ -40,6 +39,9 @@ record PlutusStructure : Set₁ where
     using ()
     renaming (_≈_ to _≈ᵉ_; ε to εᵉ; Carrier to ExUnits; refl to reflᵉ; _∙_ to _+ᵉˣ_)
 
+  instance
+    CommMonoid'-ExUnits : IsCommutativeMonoid' _ _ ExUnits
+    CommMonoid'-ExUnits = toCommMonoid' ExUnit-CommutativeMonoid
```
Comment (omelkonian) [inline src/Ledger/Script.lagda:45]: Now it makes more sense to add an `instance` field instead IMO:
```agda
record PlutusStructure : Set₁ where
  field Dataʰ : HashableSet
        Language PlutusScript CostModel Prices LangDepView ExUnit : Set
        ⦃ CommMonoid-ExUnits  ⦄ : IsCommutativeeMonoid 0ℓ 0ℓ ExUnit
        ⦃ Hashable-PlutusScript ⦄ : Hashable PlutusScript ScriptHash
        ⦃ DecEq-PlutusScript    ⦄ : DecEq PlutusScript
        ⦃ DecEq-CostModel       ⦄ : DecEq CostModel
        ⦃ DecEq-LangDepView     ⦄ : DecEq LangDepView
```

File: src/Ledger/TokenAlgebra.lagda [hunk 2]
```diff
@@ -37,6 +37,10 @@ record TokenAlgebra : Set₁ where
     using (_≈_ ; ε ; monoid ; rawMonoid)
     renaming (Carrier to Value ; refl to reflᵛ ; _∙_ to _+ᵛ_)
 
+  instance
+    CommMonoid'-Value : IsCommutativeMonoid' _ _ Value
+    CommMonoid'-Value = toCommMonoid' Value-CommutativeMonoid
+
```
Comment (omelkonian) [inline src/Ledger/TokenAlgebra.lagda:43]: Same comment as in `Ledger.Script.ExUnits`: immediately declare an instance field instead of all this wrapping/unwrapping.

File: src/Interface/IsCommutativeMonoid.agda [hunk 3]
```diff
@@ -0,0 +1,26 @@
...
+open import Algebra
+open import Prelude
+
+record IsCommutativeMonoid' c ℓ Carrier : Set (sucˡ (c ⊔ˡ ℓ)) where
+  infixl 7 _∙_
+  infix  4 _≈_
+  field
+    _≈_                 : Carrier → Carrier → Set ℓ
+    _∙_                 : Carrier → Carrier → Carrier
+    ε                   : Carrier
```
Comment (omelkonian) [inline src/Interface/IsCommutativeMonoid.agda:14]: Shouldn't these operations come from superclasses, i.e. 
```agda
record IsCommutativeMonoid' c ℓ Carrier : Set (sucˡ (c ⊔ˡ ℓ)) where
  infixl 7 _∙_
  infix  4 _≈_
  field
    ⦃ setoid ⦄ : Setoid Carrier
    ⦃ semigroup ⦄ : Semigroup Carrier
    ⦃ monoid ⦄ : Monoid Carrier
    isCommutativeMonoid : IsCommutativeMonoid {c} _≈_ _◇_ ε
```
(I think we don't yet have `Setoid` so at least the other two for now)

**Review by omelkonian — CHANGES_REQUESTED** [review]
Some comments before merging.

File: src/Interface/IsCommutativeMonoid.agda (hunk 3 above)
Comment (williamdemeo) [reply src/Interface/IsCommutativeMonoid.agda:14]: I like @omelkonian's suggestion.  Maybe less obvious/straightforward to understand/use/apply (at least for novices), but it seems like the "right" way to do things from an abstraction point of view.

File: src/Ledger/GovernanceActions/Properties.agda [hunk 4]
```diff
@@ -22,15 +21,15 @@ instance
...
+               term ≤ s .pparams .proj₁ .PParams.ccMaxTermLength +ᵉ e ¿ of λ where
       (yes p) → just (-, Enact-NewComm p)
       (no ¬p) → nothing
     (NewConstitution dh sh)  → just (-, Enact-NewConst)
     (TriggerHF v)            → just (-, Enact-HF)
     (ChangePParams up)       → just (-, Enact-PParams)
     Info                     → just (-, Enact-Info)
     (TreasuryWdrl wdrl) →
-      case ¿ ∑[ x ← (s .withdrawals ∪⁺ wdrl) ᶠᵐ ] x ≤ t ¿ of λ where
+      case ¿ ∑[ x ← s .withdrawals ∪⁺ wdrl ] x ≤ t ¿ of λ where
```
Comment (williamdemeo) [inline src/Ledger/GovernanceActions/Properties.agda:32]: Nice! 😺

File: src/Ledger/GovernanceActions/Properties.agda [hunk 5]
```diff
@@ -39,12 +38,12 @@ instance
   ... | .NewCommittee new rem q | Enact-NewComm p
     rewrite dec-yes
       (¿ ∀[ term ∈ range new ] term
-           ≤ (s .pparams .proj₁ .PParams.ccMaxTermLength +ᵉ e) ¿) p .proj₂
+           ≤ s .pparams .proj₁ .PParams.ccMaxTermLength +ᵉ e ¿) p .proj₂
```
Comment (williamdemeo) [inline src/Ledger/GovernanceActions/Properties.agda:41]: We still have to use `_+ᵉ_` around tactics? 😿

**Review by williamdemeo — APPROVED** [review]
Looks find to me (though I second @omelkonian's suggestion to favor definitions that build on existing ones).

File: src/Ledger/GovernanceActions/Properties.agda (hunk 5 above)
Comment (WhatisRT) [reply src/Ledger/GovernanceActions/Properties.agda:41]: This is unrelated to tactics, it's just that we still don't have `Epoch` in our class structure.

**Comment by WhatisRT** [comment]
@williamdemeo the issue here is that the monoid stuff that's defined in the stdlib is unsuitable for typeclass resolution. For typeclass resolution to behave nicely, we need to have the carrier as an argument to the class, but we don't want to pass the rest of the structure (since that's what the typeclass is supposed to provide). But the stdlib only has fully bundled (no arguments) and fully unbundled (everything except the laws as arguments) versions.

File: src/Ledger/Foreign/HSLedger.agda [hunk 6]
```diff
@@ -72,23 +72,22 @@ module Implementation where
...
-    .specialAsset              → "Ada"
-    .property                  → λ _ → refl
-    .coinIsMonoidHomomorphism → λ where
-      .isMagmaHomomorphism → λ where
-        .isRelHomomorphism → record {cong = id}
-        .homo → λ _ _ → refl
-      .ε-homo → refl
+    .Value                      → ℕ
+    .Value-IsCommutativeMonoid' → it
+      -- ^ Agda bug? Without this line, `coinIsMonoidHomomorphism` doesn't type check anymore
```
Comment (WhatisRT) [inline src/Ledger/Foreign/HSLedger.agda:77]: Here's something really stupid. Typeclass resolution will find this if the line is removed, and I checked, `Value-IsCommutativeMonoid'` normalizes to the same expression (`toCommMonoid' {zeroˡ} {zeroˡ} +-0-commutativeMonoid`) in either case.

But `coinIsMonoidHomomorphism` won't work if the line is removed. The reason is that when we provide the morphism explicitly like in the old version, this line breaks:
```agda
.isRelHomomorphism → record {cong = id}
```
What's the type of `cong`? If you replace `id` with `λ {x} {y} h → ?` and normalize the type, it'll be `h : x ≡ y ⊢ x ≡ y`, and Agda will accept `h` interactively, but when you re-check it it'll claim that `h` doesn't have the type `x ≡ y`. I also tried stuff like `let h' = x ≡ y ∋ h in h` to no avail.

@omelkonian @UlfNorell any ideas?

Comment (WhatisRT) [reply src/Ledger/Foreign/HSLedger.agda:77]: My suspicion is that if this line is left out, Agda instantiates the typeclass later than with this line, which leads Agda to give up too early in trying to compare the two equality types.

**Review by omelkonian — APPROVED** [review]
LGTM

File: src/Ledger/Foreign/HSLedger.agda (hunk 6 above)
Comment (omelkonian) [reply src/Ledger/Foreign/HSLedger.agda:77]: That's strange, probably your suspicion is correct that it's an issue with the timing of instance resolution (as most often is). 

A quick fix for now is to simply replace the back-and-forth `toCommMonoid'/fromCommMonoid'` when opening `CommutativeMonoid` to get `rawMonoid` with an immediate `open CommutativeMonoid ℕ.+-0-commutativeMonoid using (rawMonoid)` and the problem goes away.

I will continue investigating to report a minimal Agda bug.

Comment (omelkonian) [reply src/Ledger/Foreign/HSLedger.agda:77]: Reported as [Agda issue #7038](https://github.com/agda/agda/issues/7038); in this minimal example replacing co-patterns with `record` notation solves the error, but not in our case!
